US09351965B2
Preparation of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid
To the solution of ethyl 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylate (260 mg, 0.5 mmol) in THF (5 mL) was added LiOH (1M, 2 mL). The reaction mixture was stirred at room temperature for overnight. HCL was added to adjust the pH to 4-5 and ethyl acetated was added. The extract was washed with water (10 mL0 and dry over sodium sulfate and concentrated to give the desired product in 95% yield.

reactant | ethyl 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylate | 0.5 mmol, 260 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)OCC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H29N3O2
reactant | LiOH | 1M, 2 mL | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 95% yield | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
